US08487093B2
Step 3: Allyl (4S)-4-hydroxy-1-(trifluoroacetyl)-L-prolinate
THF (18 mL) was added to allyl (4S)-4-hydroxy-L-prolinate—hydrochloride salt (1.011 g, 4.87 mmol). The resulting suspension was cooled to 0° C. and triethylamine (3.0 mL, 21.5 mmol) was added followed by trifluoroacetic anhydride (2 mL, 14.2 mmol). The resulting mixture was stirred at 0° C. for 30 minutes then water was added. The resulting solution was stirred at room temperature for 30 minutes then diluted with ethyl acetate and washed with 1N HCl solution, water, dilute sodium bicarbonate solution, dried over magnesium sulfate, filtered and concentrated under vacuum. In order to hydrolyze any trifluoroacetate ester that may have formed as a by-product, the residue was taken up in tetrahydrofuran (11.5 mL) and water (11.5 mL). The resulting cloudy solution was stirred at room temperature for 7 hours. The resulting clear solution was diluted with ethyl acetate and washed with 5% sodium bicarbonate solution and brine, then dried over magnesium sulfate, filtered concentrated under vacuum to afford crude product. The crude product was purified by silica gel chromatography to afford the title compound as a pale tan oil.

reactant | allyl (4S)-4-hydroxy-L-prolinate—hydrochloride salt | 4.87 mmol, 1.011 g | Cl.O[C@H]1C[C@H](NC1)C(=O)OCC=C
reactant | triethylamine | 21.5 mmol, 3.0 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 14.2 mmol, 2 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 11.5 mL | O1CCCC1 | C4H8O
solvent | water | 11.5 mL | O | H2O
solvent | THF | 18 mL | C1CCOC1 | C4H8O
product | Allyl (4S)-4-hydroxy-1-(trifluoroacetyl)-L-prolinate | O[C@H]1C[C@H](N(C1)C(C(F)(F)F)=O)C(=O)OCC=C | C10H12F3NO4
